US06121285
5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(S)-fluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(S)-fluoropyrrolidine (400 mg, 1.06 mmol) was dissolved in ethanol (20 ml), and the solution was mixed with a 5% palladium-carbon catalyst (water content, 55.6%; 500 mg) and stirred for 18 hours under a hydrogen atmosphere. The catalyst was removed by celite filtration (methanol washing), and the filtrate was concentrated under reduced pressure. The thus obtained residue was dissolved in dimethyl sulfoxide (8 ml), and the solution was mixed with 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid (289 mg, 0.88 mmol) and triethylamine (2 ml) and stirred for 26 hours at 100° C. in a nitrogen atmosphere. After cooling, dimethyl sulfoxide was evaporated under reduced pressure, the thus obtained residue was dissolved in chloroform (80 ml) and washed-with a 10% citric acid aqueous solution (80 ml) and then the organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The thus obtained residue was subjected to flash silica gel chromatography and eluted with a mixture of chloroform:methanol=9:1, and the eluate was concentrated under reduced pressure. To the thus obtained residue, which was cooled in an ice bath, was added dropwise concentrated hydrochloric acid (5 ml), followed by 20 minutes of stirring at room temperature. After adding 1 N hydrochloric acid (30 ml) to the reaction solution, the aqueous solution was washed with chloroform (50 ml×2) and adjusted to pH 12.0 with a sodium hydroxide aqueous solution. The aqueous solution was washed with chloroform (100 ml×2), adjusted to pH 7.4 with 1 N hydrochloric acid and then extracted with chloroform (200 ml×3). The organic layers were combined, dried over anhydrous sodium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. Thereafter, the resulting residue was purified by recrystallization from ethanol and then dried under reduced pressure to obtain 170 mg (42.6%) of the title compound as a yellow powder.

reactant | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(S)-fluoropyrrolidine | 1.06 mmol, 400 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)F | C20H27FN2O4
reactant | 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 0.88 mmol, 289 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O4
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(S)-fluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 170 mg, 42.6% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)C1(CC1)N)F)OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C21H23F3N4O4
